US04544562
20.3 g (0.1 mole) of 6-(p-aminophenyl)-4,5-dihydro-5-methyl-3(2H)-pyridazinone were stirred with 14.9 g (0.12 mole) of 2-methylmercaptoacetyl chloride and 400 ml of absolute acetone for 10 hours at room temperature. The product was filtered off under suction at 10° C., washed with cold acetone and dried at 70° C. under reduced pressure. 12.5 g (43%) of 6-[p-(2-methylmercaptoacetylamino)phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone were obtained. Mp.: 220°-222° C.

reactant | 6-(p-aminophenyl)-4,5-dihydro-5-methyl-3(2H)-pyridazinone | 0.1 mole, 20.3 g | NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C11H13N3O
reactant | 2-methylmercaptoacetyl chloride | 0.12 mole, 14.9 g | CSCC(=O)Cl | C3H5ClOS
solvent | acetone | 400 ml | CC(=O)C | C3H6O
product | 6-[p-(2-methylmercaptoacetylamino)phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone | 12.5 g, 43% | CSCC(=O)NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C14H17N3O2S
